US04371530
[4'-Methyl-(1,1'-biphenyl)-4-yl]methanol
4-Methyl-(1,1'-biphenyl)-4-carboxylic acid, methyl ester (1.43 g) in ether (25 ml) and THF (25 ml) was added over 5 min to LiAlH4 (420 mg) in ether (25 ml). The mixture was stirred at room temperature for 1h and then cooled in ice. Aqueous NaOH (1 M, 2.1 ml) was added and after stirring (15 min) excess anhydrous Na2SO4 was added. The mixture was filtered and the filtrate evaporated to give a solid. Crystallisation from cyclohexane-methanol gave the title compound (1.04 g) m.p. 128°-31°.

reactant | 4-Methyl-(1,1'-biphenyl)-4-carboxylic acid, methyl ester | 1.43 g | CC1(CC=C(C=C1)C1=CC=CC=C1)C(=O)OC | C15H16O2
reactant | LiAlH4 | 420 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1 M, 2.1 ml | [OH-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | ether | 25 ml | CCOCC | C4H10O
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | [4'-Methyl-(1,1'-biphenyl)-4-yl]methanol | 1.04 g | CC1=CC=C(C=C1)C1=CC=C(C=C1)CO | C14H14O
